US06825191B2
Step 1: Synthesis of ethyl (4-chloro-2-nitrobenzyl)aminoacetate
4.84 g (28.3 mmol) of 4-chloro-2-nitrotoluene was dissolved in 50 ml of benzene. 50 mg of perbenzoic acid and 6.0 g (34 mmol) of N-bromosuccinimide were added to the obtained solution, and the obtained solution was stirred at 80° C. overnight. The reaction solution was treated with ethyl acetate as the extracting solvent by an ordinary method to obtain the crude product. The crude product was dissolved in 100 ml of ethanol. 11.9 g (84.9 mmol) of glycine ethyl ester hydrochloride and 8.9 g (106 mmol) of sodium hydrogencarbonate were added to the obtained solution, and they were stirred at 80° C. for 4 hours. The insoluble matter was removed by the filtration, and the solvent was evaporated. After the extraction with ethyl acetate followed by washing with 1 N hydrochloric acid, the obtained aqueous layer was made basic with 1 N sodium hydroxide. After the extraction with ethyl acetate, the obtained organic layer was washed with saturated aqueous sodium chloride solution and then dried. The solvent was evaporated to obtain the title compound.

reactant | 4-chloro-2-nitrotoluene | 28.3 mmol, 4.84 g | ClC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
reactant | perbenzoic acid | 50 mg | C1=CC=CC=C1C(=O)OO | C7H6O3
reactant | N-bromosuccinimide | 34 mmol, 6.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | glycine ethyl ester hydrochloride | 84.9 mmol, 11.9 g | Cl.C(C)OC(CN)=O
reactant | sodium hydrogencarbonate | 106 mmol, 8.9 g | C(O)([O-])=O.[Na+]
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl (4-chloro-2-nitrobenzyl)aminoacetate | ClC1=CC(=C(CNCC(=O)OCC)C=C1)[N+](=O)[O-] | C11H13ClN2O4
